US06479424B1
A 1 L round bottom flask fit with a magnetic stirrer, condenser, thermometer, and nitrogen inlet was charged with anhydrous toluene (7 mL, Aldrich), the crude 5,5,8,8-tetramethyl-5,6,7,8-tetrahydrobenz(f)indan-2-ol (31.0 g, 0145 mol), pyridine (31.6 mL, 0.39 mol, Aldrich), and p-toluenesulfonyl chloride (30.4 g, 0.16 mol, Aldrich). The mixture was heated to reflux and cooled for GC analysis periodically for a total reflux time of 2 hours. The reaction was then quenched in 5% HCl (250 mL) and extracted into diethyl ether (200 mL). The ether extract was washed with 5% HCl (200 mL), 5% aqueous sodium bicarbonate (until neutral to pH paper), Water (2×200 mL), and dried over anhydrous magnesium chloride. Removal of solvents by rotary evaporation gave 23.0 g of crude product which was purified by chromatography on silica gel (60 g silica gel/hexane eluent) to give 5,5,8,8-tetramethyl-5,6,7,8-tetrahydrobenz(f)indene (17.5 g, 92-99+% pure by GC). 1HNMR (CDCl3, 500 MHz) δ7.44 (s, 1H); 7.36 (s, 1H); 6.82 (br d, J=5.5 Hz, 1H); 6.47 (br d, J=5.5 Hz, 1H); 3.51 (s, 2H); 1.70 (s, 4H); 1.32 (s, 12H).

reactant | 5,5,8,8-tetramethyl-5,6,7,8-tetrahydrobenz(f)indan-2-ol | 31.0 g | CC1(CCC(C2=CC=3CC(CC3C=C21)O)(C)C)C | C17H24O
reactant | pyridine | 0.39 mol, 31.6 mL | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | 0.16 mol, 30.4 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
product | 5,5,8,8-tetramethyl-5,6,7,8-tetrahydrobenz(f)indene | 17.5 g | CC1(CCC(C2=CC=3C=CCC3C=C21)(C)C)C | C17H22
